US07326786B2
To the solution of sodium borohydride (0.48 g, 13.1 mmol) in THF (10 mL) was added D-4-fluorophenylalanine (1.0 g, 5.5 mmol). After cooling to 0° C., the solution of iodine (1.4 g, 5.5 mmol) in THF (10 mL) was added dropwisely. The mixture was stirred at reflux for 18 h. after cooling to the room temperature, methanol (7 mL) was added to stop the reaction. After removal of solvent, 20% potassium hydroxide (50 mL) was added. The mixture was stirred for 4 h and extracted with methylene chloride (3×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 0%-10% methanol in methylene chloride in 30 min afforded (R)-2-(4-fluoro-phenyl)-1-hydroxymethyl-ethylamine (0.73 g, 79%).

reactant | sodium borohydride | 13.1 mmol, 0.48 g | [BH4-].[Na+]
reactant | D-4-fluorophenylalanine | 5.5 mmol, 1.0 g | C1=CC(=CC=C1C[C@H](C(=O)O)N)F | C9H10FNO2
reactant | iodine | 5.5 mmol, 1.4 g | II | I2
reactant | methanol | 7 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-fluoro-phenyl)-1-hydroxymethyl-ethylamine | 0.73 g, 79% | FC1=CC=C(C=C1)C[C@H](CO)N | C9H12FNO
